US06307066B1
In U.S. Pat. No. 4,820,850 (89)/CA 1,287,063 (91, Merck), lovastatin is reacted with butylamine to produce lovastatin butylarnide. The two hydroxy groups in the butylamide are protected with tert-butyldimethylsilyl chloride to produce a disilylated lovastatin butylamide. The disilylated lovastatin butylamide is enolized with lithium pyrrolidide and the enolate is alkylated with methyl iodide to produce a disilylated simvastatin butylamide on aqueous workup. The silyl protecting groups are removed using hydrofluoric acid to produce simvastatin butylamide. The simvastatin butylamide is hydrolyzed using sodium hydroxide and, following acidification, the dihydroxy acid form of simvastatin is obtained. The dihydroxy acid compound is reacted with ammonium hydroxide to produce an ammonium salt which is then relactonized by heating to produce simvastatin.

reactant | lovastatin butylamide | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C(CCC)[NH-]
reactant | methyl iodide | CI | CH3I
product | simvastatin butylamide | CCC(C)(C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C.C(CCC)[NH-] | InChI=1S/C25H38O5.C4H10N/c1-6-25(4,5)24(28)30-21-12-15(2)11-17-8-7-16(3)20(23(17)21)10-9-19-13-18(26)14-22(27)29-19;1-2-3-4-5/h7-8,11,15-16,18-21,23,26H,6,9-10,12-14H2,1-5H3;5H,2-4H2,1H3/q;-1/t15-,16-,18+,19+,20-,21-,23-;/m0./s1
